US06111146
NONYLPHENOL (EO)1.5, HYDROGENATED, (EO)5 (peaked)
The resulting 292.4 grams of NCH-1.5 was then mixed with 1.9 grams CaO in an autoclave and reacted with 220 grams of ethylene oxide (EO) fed into the autoclave over a six-hour period at a temperature of 150° C. and a pressure of 50 psi. Pressure and temperature were controlled by EO charge rate and rate of flow of cooling water. After all the oxide was charged, the reaction was held for one hour and the autoclave was placed under a 50 mm vacuum for thirty minutes and the vacuum was broken with nitrogen. The resulting 5 mole ethoxylate of nonylcyclohexyl alcohol (NCH-5 pk) was then cooled to 50° C. and the catalyst was neutralized with HCl to a pH balance between 6 and 7, inclusive.

reactant | ethylene oxide | 220 grams | C1CO1 | C2H4O
reactant | nonylcyclohexyl alcohol | C(CCCCCCCC)C1(CCCCC1)O | C15H30O
reactant | HCl | Cl | ClH
solvent | water | O | H2O
product | NONYLPHENOL | CCCCCCCCCC=1C=CC(=CC1)O | C15H24O
